US04440771
Quinaldic acid (2.76 grams, 0.017 mole) was dissolved in 100 ml of dried tetrahydrofuran. Then 25 ml of 1.6 M (0.04 mole) of methyl lithium was added using a syringe. Reaction appeared immediate. The solution was stirred and heated under reflux for two hours and then poured into 600 ml of ice water. The ketone (2-acetylquinoline) was extracted with four 25 ml portions of ethyl ether which, after drying, was removed by rotary evaporation to yield ca. 1.0 g (ca. 40%) of 2-acetylquinoline.

reactant | Quinaldic acid | 0.017 mole, 2.76 grams | C(C1=NC2=CC=CC=C2C=C1)(=O)O | C10H7NO2
reactant | methyl lithium | 0.04 mole, 1.6 M | C[Li]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-acetylquinoline | ca. 1.0 g, ca. 40% | C(C)(=O)C1=NC2=CC=CC=C2C=C1 | C11H9NO
